US05484942
A solution of 21.15 g of (4aRS,7aSR)6-benzyl-4-oxoperhydrothiopyrano[2,3-c]pyrrole in 150 cm3 of anhydrous ethyl ether are added over 30 minutes to a solution of phenylmagnesium bromide prepared from 19.8 cm3 of bromobenzene and 4.52 g of dry magnesium in 120 cm3 of anhydrous ethyl ether. The reaction mixture is stirred at the reflux temperature for 3 hours, and then for 20 hours at 20° C. The mixture, to which 200 cm3 of ethyl ether has been added, is stirred with 600 cm3 of a saturated aqueous solution of ammonium chloride. The aqueous phase is extracted with 200 cm3 of ethyl ether, the two pooled etherial extracts are washed twice with 300 cm3 of a saturated aqueous solution of sodium chloride and then dried over magnesium sulphate and concentrated to dryness under reduced pressure (5.4 kPa) at 35° C. 12.2 g of (4RS,4aSR,7aRS)-4-hydroxy-4-phenyl6-benzylperhydrothiopyrano[2,3-c]pyrrole are obtained in the form of a white solid; melting point 137° C.

reactant | (4aRS,7aSR)6-benzyl-4-oxoperhydrothiopyrano[2,3-c]pyrrole | 21.15 g | C(C1=CC=CC=C1)N1CC2C(C1)C(CCS2)=O | C14H17NOS
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | bromobenzene | 19.8 cm3 | BrC1=CC=CC=C1 | C6H5Br
reactant | magnesium | 4.52 g | [Mg] | Mg
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl ether | 150 cm3 | C(C)OCC | C4H10O
solvent | ethyl ether | 120 cm3 | C(C)OCC | C4H10O
solvent | ethyl ether | 200 cm3 | C(C)OCC | C4H10O
product | (4RS,4aSR,7aRS)-4-hydroxy-4-phenyl6-benzylperhydrothiopyrano[2,3-c]pyrrole | 12.2 g | OC1(CCSC2CN(CC21)CC2=CC=CC=C2)C2=CC=CC=C2 | C20H23NOS
